US05206149
20 g (104.9 mmol) of 2-naphthyl chloride and 2.5 g (15.5 mmol) of 4-aminoresorcinol hydrochloride were introduced into a three-necked flask provided with a thermometer and a cooling condenser, and the mixture was heated at 135° to 205° C. for 1 hour, then excessive acid chloride was removed by distillation. To the residue, 8.3 g (207.5 mmol) of NaOH, 60 ml of THF, 60 ml of water and 30 ml of methanol were added, and the mixture was stirred at room temperature for about 2 hours. The reaction solution was extracted with ethyl acetate, the extract was washed with saturated sodium chloride water solution, and ethyl acetate was distilled off. Recrystallizing the residue with water/methanol/THF and drying the crystal, there was obtained 1.92 mg (7.36 mmol) of 2-(2-naphthyl)-6-hydroxybenzoxazole. The yield was 47.5%.

reactant | 2-naphthyl chloride | 104.9 mmol, 20 g | C1=C(C=CC2=CC=CC=C12)Cl | C10H7Cl
reactant | 4-aminoresorcinol hydrochloride | 15.5 mmol, 2.5 g | Cl.NC1=C(C=C(O)C=C1)O
reactant | NaOH | 207.5 mmol, 8.3 g | [OH-].[Na+]
reactant | THF | 60 ml | C1CCOC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 2-(2-naphthyl)-6-hydroxybenzoxazole | 7.36 mmol, 1.92 mg, yield was 47.5% | C1=C(C=CC2=CC=CC=C12)C=1OC2=C(N1)C=CC(=C2)O | C17H11NO2
